US07893058B2
Step 1: 2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide
In the same way as described for Compound 209, step 2, using 4-bromo-2-fluoro-benzamide, (0.2 g, 0.94 mmol) bis(pinacolato)diboron (0.26 g, 1.01 mmol), PdCl2dppf (0.023 g, 0.027 mol) and KOAc (0.29 g, 2.76 mmol) in dioxane (2 mL). The crude compound is used in the next step without further purification.

reactant | 4-bromo-2-fluoro-benzamide | 0.94 mmol, 0.2 g | BrC1=CC(=C(C(=O)N)C=C1)F | C7H5BrFNO
reactant | bis(pinacolato)diboron | 1.01 mmol, 0.26 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 2.76 mmol, 0.29 g | CC(=O)[O-].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | FC1=C(C(=O)N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H17BFNO3
